US08455483B2
N-(2,2-Dimethoxyethyl)-3,3,3-trifluoropropan-1-amine
To a stirred solution of 3,3,3-trifluoropropan-1-amine hydrochloride (0.165 g) in methanol (3 mL) was added 2,2-dimethoxyacetaldehyde (60% in water, 0.17 mL) followed by sodium bicarbonate (0.093 g) and the mixture was stirred at ambient temperature overnight. A slurry of palladium on carbon 10% (50 mg) in methanol (1 mL) was added and the mixture was hydrogenated at 5 bar pressure for 4 hours. The mixture was filtered and concentrated in vacuo. The resulting gummy solid was suspended in DCM (5 mL) and dried over sodium sulphate, filtered and evaporated to give the titled compound as a yellow gum. Yield 0.152 g.

reactant | 3,3,3-trifluoropropan-1-amine hydrochloride | 0.165 g | Cl.FC(CCN)(F)F
reactant | 2,2-dimethoxyacetaldehyde | 0.17 mL | COC(C=O)OC | C4H8O3
reactant | sodium bicarbonate | 0.093 g | C([O-])(O)=O.[Na+]
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | methanol | 1 mL | CO | CH4O
product | N-(2,2-Dimethoxyethyl)-3,3,3-trifluoropropan-1-amine | COC(CNCCC(F)(F)F)OC | C7H14F3NO2
